US09056859B2
Step B: methyl 3-bromo-2-chlorobenzoate
To a solution of methyl 3-amino-2-chlorobenzoate (2.0 g, 11 mmol) in 48% HBr (10 mL) and water (20 mL) was added an aqueous solution of sodium nitrite (0.89 g, 13 mmol) at 0° C. The mixture was allowed to stir at 0° C. for 30 minutes before it was added into a suspension of copper(I) bromide (2.3 g, 16 mmol) in water (10 mL) and 48% HBr (5 mL) at 0° C. The reaction was allowed to warm to RT slowly, and then heated to 60° C. for 5 minutes. TLC and LC suggested good reaction. The product was extracted with DCM (100 mL×2). The extractions were combined, dried over sodium sulfate, adsorbed onto silica gel, and purified by MPLC to deliver methyl 3-bromo-2-chlorobenzoate. LC-MS (IE, m/z): 251 [M+1]+;

reactant | methyl 3-amino-2-chlorobenzoate | 11 mmol, 2.0 g | NC=1C(=C(C(=O)OC)C=CC1)Cl | C8H8ClNO2
reactant | sodium nitrite | 13 mmol, 0.89 g | N(=O)[O-].[Na+]
reactant | HBr | 10 mL | Br | BrH
reactant | HBr | 5 mL | Br | BrH
solvent | water | 20 mL | O | H2O
solvent | water | 10 mL | O | H2O
catalyst | copper(I) bromide | 16 mmol, 2.3 g | [Cu]Br
product | methyl 3-bromo-2-chlorobenzoate | BrC=1C(=C(C(=O)OC)C=CC1)Cl | C8H6BrClO2
